US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-1,3-thiazol-2-yl]oxy}-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
Cesium carbonate (488 mg, 1.5 mmol) was added to a solution of 3-hydroxy-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (187 mg, 0.5 mmol) and 5-(azetidin-1-ylcarbonyl)-2-chloro-1,3-thiazole (152 mg, 0.75 mmol) in acetonitrile (5 mL) and the stirred mixture heated at 160° in a Biotage Initiator Microwave for 2 hours. The mixture was cooled to RT and pressure, poured onto water (75 mL) then extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine, dried (MgSO4) and evaporated to a residue which was chromatographed on silica eluting with ethyl acetate, to give the desired compound (142 mg). 1H NMR δ (CDCl3): 1.3 (d, 6H), 2.4 (m, 2H), 3.7 (s, 3H), 4.1-4.4 (m, 4H), 4.5 (m, 1H), 6.75 (s, 1H), 6.9 (s, 1H), 7.2 (s, 1H), 7.25 (d, 1H), 7.4 (s, 1H) and 8.95 (s, 1H). m/z 442 (M+H)+.

reactant | Cesium carbonate | 1.5 mmol, 488 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.5 mmol, 187 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC(C)C | C14H17N3O3
reactant | 5-(azetidin-1-ylcarbonyl)-2-chloro-1,3-thiazole | 0.75 mmol, 152 mg | N1(CCC1)C(=O)C1=CN=C(S1)Cl | C7H7ClN2OS
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)-1,3-thiazol-2-yl]oxy}-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 142 mg | N1(CCC1)C(=O)C1=CN=C(S1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC(C)C | C21H23N5O4S
